US06596772B1
[2,3-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propyl]-(4-nitro-phenyl)-amine (59).
A mixture of 3-(4-nitroanilino)-1,2-propanediol (71 mg, 0.33 mmol), 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene (135 mg, 0.47 mmol) and potasium carbonate (190 mg, 1.33 mmol) in acetonitrile (2 mL) was heated to reflux for 2 days. The reaction was diluted with chloroform/isopropanol mixture, washed with brine, dried, concentrated and column chromatographed to give the title compound (di-arylated) and 1-(4-nitro-phenylamino)-3-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propan-2-ol (mono-arylated). 1H NMR (360 MHz, DMSO-d6) δ 8.63 (d, 1H), 8.37 (dd, 1H), 8.30 (d, J=8.8 Hz, 2H), 7.83 (d, 1H), 7.66 (d, J=8.8 Hz, 2H), 7.50 (dd, 1H), 7.42 (d, 1H), 7.31 (d, 1H), 4.91 (m, 1H), 4.76 (m, 2H), 4.15 (dd, 1H), 3.91 (dd, 1H).

reactant | 3-(4-nitroanilino)-1,2-propanediol | 0.33 mmol, 71 mg | [N+](=O)([O-])C1=CC=C(NCC(CO)O)C=C1 | C9H12N2O4
reactant | 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene | 0.47 mmol, 135 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO4S
reactant | potasium carbonate | 1.33 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | chloroform isopropanol | C(Cl)(Cl)Cl.C(C)(C)O
product | [2,3-Bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-propyl]-(4-nitro-phenyl)-amine | [N+](=O)([O-])C1=C(OC(CNC2=CC=C(C=C2)[N+](=O)[O-])COC2=C(C=C(C=C2)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=CC(=C1)S(=O)(=O)C(F)(F)F | C23H16F6N4O12S2
